US07084176B2
N-[3-(4-tert-butylcyclohexan-1-yl)phenyl]-4-hydroxy-3-methoxyphenylacetamide (130 mg) and ethyl bromoacetate (84 mg) are dissolved in acetone, and thereto is added potassium carbonate (180 mg), and the reaction solution is heated under reflux for 18 hours. The reaction solution is filtered, and the filtrate is concentrated. The residue is purified by silica gel column chromatography (eluent: gradient from 0% to 100% hexane/ethyl acetate) to give N-[3-(4-tert-butylcyclohexan-1-yl)phenyl]-4-ethoxycarbonylmethyloxy 3-methoxyphenylacetamide (120 mg). This product is dissolved in methanol (2 ml), and thereto is added 2 M aqueous sodium hydroxide solution (1 ml), and the mixture is stirred at 25° C. for 1 hour. The mixture is neutralized with acetic acid, and water is added thereto. The mixture is extracted with chloroform, and the organic layer is dried over sodium sulfate. The solvent is evaporated under reduced pressure, and the residue is purified by silica gel column chromatography (eluent: gradient from 0% to 25% chloroform/methanol) to give the desired compound (45 mg).

reactant | N-[3-(4-tert-butylcyclohexan-1-yl)phenyl]-4-hydroxy-3-methoxyphenylacetamide | 130 mg | C(C)(C)(C)C1CCC(CC1)C=1C=C(C=CC1)NC(CC1=CC(=C(C=C1)O)OC)=O | C25H33NO3
reactant | ethyl bromoacetate | 84 mg | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 180 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | N-[3-(4-tert-butylcyclohexan-1-yl)phenyl]-4-ethoxycarbonylmethyloxy 3-methoxyphenylacetamide | 120 mg | C(C)(C)(C)C1CCC(CC1)C=1C=C(C=CC1)NC(CC1=CC(=C(C=C1)OCC(=O)OCC)OC)=O | C29H39NO5
